US05817822
To a solution of the crude 2-(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-[(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl] acetic acid (6.02 mmol) in methylene chloride (150 ml) is added O-t-butylhydroxylamine (2.27 g, 18.06 mmol), N-methylmorpholine (3.65 g, 36.12 mmol), 1-hydroxy-7-azabenzotriazole (819 mg, 6.02 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.5 g, 7.83 mmol). The reaction mixture is stirred at room temperature for 1.5 hours, diluted with ethyl acetate and washed with water. The aqueous layer is extracted with ethyl acetate, the combined organic layers are washed with brine, dried over sodium sulfate, and concentrated in vacuo. The crude product is purified by silica gel chromatography (2% methanol in methylene chloride) to provide N-(t-butyloxy)-2-(R)-[(4-methoxybenzenesulfonyl) (4-picolyl)amino]-2-[(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl]acetamide (3 g).

reactant | 2-(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-[(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl] acetic acid | 6.02 mmol | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C1CCN(CC1)C(=O)OCCC1=CC=CC2=CC=CC=C12)CC1=CC=NC=C1 | C33H35N3O7S
reactant | O-t-butylhydroxylamine | 18.06 mmol, 2.27 g | C(C)(C)(C)ON | C4H11NO
reactant | N-methylmorpholine | 36.12 mmol, 3.65 g | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxy-7-azabenzotriazole | 6.02 mmol, 819 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7.83 mmol, 1.5 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(t-butyloxy)-2-(R)-[(4-methoxybenzenesulfonyl) (4-picolyl)amino]-2-[(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl]acetamide | 3 g | C(C)(C)(C)ONC([C@@H](C1CCN(CC1)C(=O)OCCC1=CC=CC2=CC=CC=C12)N(CC1=CC=NC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C37H44N4O7S
